US09428470B2
A) Di-tert-butyl 2-methylenesuccinate
2-Methylprop-1-ene (50.3 mL) was added to 2-methylenesuccinic acid (10.0 g) at −78 C, then sulfuric acid (0.819 mL) was added dropwise at −78 C, and then, the obtained mixture was stirred at room temperature at 4.5 to 3.5 atm for 22 hours in a sealed tube. After removal of 2-methylprop-1-ene at room temperature, the reaction mixture was diluted with ethyl acetate (100 mL) and added to a saturated aqueous solution of sodium bicarbonate (100 mL) at 0 C, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (12.8 g).

reactant | 2-Methylprop-1-ene | 50.3 mL | CC(=C)C | C4H8
reactant | 2-methylenesuccinic acid | 10.0 g | C=C(C(=O)O)CC(=O)O | C5H6O4
reactant | sulfuric acid | 0.819 mL | S(O)(O)(=O)=O | H2O4S
product | Di-tert-butyl 2-methylenesuccinate | 12.8 g | C=C(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C13H22O4
